US07071218B2
{5-[6-(3-Dimethylamino-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-naphthalen-2-yl methylene]-4-oxo-2-thioxo-thiazolidin-3-yl}-acetic acid was prepared in a similar manner as described in Example 1 using 6-(3-dimethylamino-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-carboxaldehyde and rhodanine acetic acid, mp 194–196° C., 1H NMR (300 MHz; DMSO-d6) 1.25 (s, 6 H), 1.30 (s, 6 H), 1.66 (s, 4 H), 2.47 (s, 6 H), 4.76 (s, 2 H); 6.99 (s, 1 H), 7.21 (s, 1 H), 7.74 (dd, J1=1.5 Hz, J2=8.4 Hz, 1 H), 7.87 (dd, J1=1.5 Hz, J2=8.4 Hz, 1 H), 8.05 (brs, 2 H), 8.07 (d, J=8.1 Hz, 1 H), 8.10 (d, J=8.1 Hz, 1 H), 8.28 (s, 1 H).

reactant | 3-dimethylamino-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-carboxaldehyde | CN(C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O)C | C17H25NO
reactant | rhodanine acetic acid | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
product | {5-[6-(3-Dimethylamino-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-naphthalen-2-yl methylene]-4-oxo-2-thioxo-thiazolidin-3-yl}-acetic acid | CN(C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C2C=CC(=CC2=CC1)C=C1C(N(C(S1)=S)CC(=O)O)=O)C | C32H34N2O3S2
